US04112096
B. 2-(1-Hydroxyethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
A suspension of 3.3 g (0.0146 mole) of acetylpyrazolo[1,5-c]quinazolin-5(6H)-one prepared as in part A above in 300 ml of absolute ethanol is cooled to 0° and 2.22 g (0.0584 mole) of sodium borohydride added. Stirring is continued at 0° for fifteen minutes and then at room temperature for 2 hours. The reaction mixture is treated with 150 ml of water, the solution stripped to about 100 ml, saturated with solid sodium chloride and adjusted to pH 6.0 (paper) with dilute (1N) hydrochloric acid. The resultant precipitate is filtered and dried to give 3.1 g of product (94%) melting at 242°-245°. Recrystallization from chloroform-methanol gives 3.0 g of the title compound, m.p. 250°-252°.

reactant | acetylpyrazolo[1,5-c]quinazolin-5(6H)-one | 0.0146 mole, 3.3 g | C(C)(=O)C=1C=NN2C(NC=3C=CC=CC3C21)=O | C12H9N3O2
reactant | sodium borohydride | 0.0584 mole, 2.22 g | [BH4-].[Na+]
reactant | water | 150 ml | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethanol | 300 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1N | Cl | ClH
product | 2-(1-Hydroxyethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 3.1 g, 94% | OC(C)C1=NN2C(NC=3C=CC=CC3C2=C1)=O | C12H11N3O2
